US06174884B1
6-(4-Amino-benzyl)-1-(3-nonyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one
10 mg (0.037 mmol) of 5-amino-3-methyl-1-(3-nonyl)-1H-pyrazole-4-carboxamide and 45 mg (0.274 mmol) of methyl 4-aminophenylacetate are refluxed for 6 hours in 0.5 ml of a 0.5M ethanolic sodium ethoxide solution. After dichloromethane and saturated aqueous sodium hydrogen carbonate solution have been added, the phases are separated. Purification by chromatography gives 4.9 mg (35%) of a solid, Rf=0.45 (dichloromethane/methanol=15:1).

reactant | 5-amino-3-methyl-1-(3-nonyl)-1H-pyrazole-4-carboxamide | 0.037 mmol, 10 mg | NC1=C(C(=NN1C(CC)CCCCCC)C)C(=O)N | C14H26N4O
reactant | methyl 4-aminophenylacetate | 0.274 mmol, 45 mg | NC1=CC=C(C=C1)CC(=O)OC | C9H11NO2
reactant | sodium ethoxide | 0.5M | [O-]CC.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(4-Amino-benzyl)-1-(3-nonyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 4.9 mg, 35% | NC1=CC=C(CC=2NC(C3=C(N2)N(N=C3C)C(CC)CCCCCC)=O)C=C1 | C22H31N5O
